US07544704B2
3,5-Dimethyl-2-(5-methyl-3-phenyl-isoxazol-4-ylethynyl)-3H-imidazole-4-carboxylic acid ethyl ester
As described for example 11c, 4-ethynyl-5-methyl-3-phenyl-isoxazole (92 mg, 0.50 mmol) was converted (using 2-bromo-3,5-dimethyl-3H-imidazole-4-carboxylic acid ethyl ester instead of 2-chloro-4-iodopyridine) to the title compound (SiO2, heptane:ethyl acetate=95:5 to 0:100, 110 mg, 63%) which was obtained as a light yellow solid. MS: m/e=350.3 [M+H]+.

reactant | 4-ethynyl-5-methyl-3-phenyl-isoxazole | 0.50 mmol, 92 mg | C(#C)C=1C(=NOC1C)C1=CC=CC=C1 | C12H9NO
reactant | 2-bromo-3,5-dimethyl-3H-imidazole-4-carboxylic acid ethyl ester | C(C)OC(=O)C=1N(C(=NC1C)Br)C | C8H11BrN2O2
product | 3,5-Dimethyl-2-(5-methyl-3-phenyl-isoxazol-4-ylethynyl)-3H-imidazole-4-carboxylic acid ethyl ester | 110 mg, 63% | C(C)OC(=O)C=1N(C(=NC1C)C#CC=1C(=NOC1C)C1=CC=CC=C1)C | C20H19N3O3
